US05905149
2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy] acetic acid sodium salt
To a solution of 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy] acetic acid ethyl ester (150 mg, 0.40 mmol) in dioxane (20 ml) was added 2N sodium hydroxide (2 ml) and the mixture was stirred for 1 h at room temperature. The resulting crystals were separated by filtration, washed with dioxane and dried. Thus pure title compound was obtained in 81.5% yield (120 mg).

reactant | 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy] acetic acid ethyl ester | 0.40 mmol, 150 mg | C(C)OC(COC=1C=CC(=C2C=CC=NC12)C=C1C(NC2=CC=CC=C12)=O)=O | C22H18N2O4
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy] acetic acid sodium salt | 81.5% yield | [Na+].N1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OCC(=O)[O-])=O | InChI=1S/C20H14N2O4.Na/c23-18(24)11-26-17-8-7-12(13-5-3-9-21-19(13)17)10-15-14-4-1-2-6-16(14)22-20(15)25;/h1-10H,11H2,(H,22,25)(H,23,24);/q;+1/p-1
